US06255496B1
4-[4-[2-(N-Dodecyl-N-propylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
N-Propyl-N-[2-[4-(4,4,4-trifluoro-3,3-dimethoxybut-1-yl)phenoxy]ethyl]dodecylamine (300 mg, 0.58 mmol) was treated with trifluoroacetic acid as described in the preparation of 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester and afforded the title compound (169 mg, 62%) as a pale yellow oil.

reactant | N-Propyl-N-[2-[4-(4,4,4-trifluoro-3,3-dimethoxybut-1-yl)phenoxy]ethyl]dodecylamine | 0.58 mmol, 300 mg | C(CC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C29H50F3NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
product | 4-[4-[2-(N-Dodecyl-N-propylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 169 mg, 62% | C(CCCCCCCCCCC)N(CCC)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C27H44F3NO2
